US05554778
A mixture of 0.05 mmol RuHCi(H2)(PCy3)2, 0.54 mmol methyl-3-cyanoisobutyrate (prepared by addition of HCN to methyl methacrylate), 17.7 g THF, 15.3 g water, and 0.0596 g cyclododecane (internal standard for gc analysis) was stirred in an autoclave and heated to 100° C. under 7000 kPa H2. After 3.2 hours, the nitrile was completely and cleanly converted to methyl-butyrolactone, which formed by transesterification/cyclization of the intermediate hydroxyester, methyl 2-methyl-4-hydroxybutyrate.

reactant | methyl-3-cyanoisobutyrate | 0.54 mmol | COC(C(CC#N)C)=O | C6H9NO2
reactant | THF | 17.7 g | C1CCOC1 | C4H8O
reactant | cyclododecane | 0.0596 g | C1CCCCCCCCCCC1 | C12H24
reactant | methyl-butyrolactone | CC1C(=O)OCC1 | C5H8O2
solvent | water | 15.3 g | O | H2O
product | methyl 2-methyl-4-hydroxybutyrate | CC(C(=O)OC)CCO | C6H12O3
